US05200412
To a stirred solution of 2,2-dimethylglycine (10.0 g, 0.097 mol) in methanol (200 ml) was added trimethylsilyl chloride (37 ml, 0.29 mol). After stirring at room temperature for 14 h. The mixture was evaporated to dryness to give crude 2,2-dimethylglycine methyl ester hydrochloride as a white solid which was used directly in the next step.

reactant | 2,2-dimethylglycine | 0.097 mol, 10.0 g | CC(N)(C(=O)O)C | C4H9NO2
reactant | trimethylsilyl chloride | 0.29 mol, 37 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | methanol | 200 ml | CO | CH4O
product | 2,2-dimethylglycine methyl ester hydrochloride | Cl.COC(C(N)(C)C)=O | InChI=1S/C5H11NO2.ClH/c1-5(2,6)4(7)8-3;/h6H2,1-3H3;1H
